* temp_por_top -- generated by design/netlist.py from design/temp_por_top.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/temp_por_top.sch
.subckt temp_por_top VDD VSS PTAT CTAT RESETn
*.PININFO VDD:B VSS:B PTAT:O CTAT:O RESETn:O
xbias VDD VSS IBIAS VREF BIAS_OK bias_core
xtemp VDD VSS IBIAS RESETn PTAT CTAT temp_core
xcmp VDD VSS IBIAS VREF BIAS_OK POR_RAW por_comparator
xpor VDD VSS IBIAS POR_RAW RESETn por_output_chain
.ends

* expanding   symbol:  bias_core.sym # of pins=5
** sym_path: design/bias_core.sym
** sch_path: design/bias_core.sch
.subckt bias_core VDD VSS IBIAS VREF BIAS_OK
*.PININFO VDD:B VSS:B IBIAS:O VREF:O BIAS_OK:O
Rplaceholder_ibias IBIAS VSS 1T m=1
Rplaceholder_vref VREF VSS 1T m=1
Rplaceholder_bias_ok BIAS_OK VSS 1T m=1
**** begin user architecture code

* PLACEHOLDER: bias_core has no internals yet -- they land with issue #11.
* The Rplaceholder_* devices in this cell are 1 Tohm terminations, not
* design content: they exist only so this stub is ERC-clean and DC-solvable.
* Nothing in this cell may be cited as simulation evidence.

**** end user architecture code
.ends


* expanding   symbol:  temp_core.sym # of pins=6
** sym_path: design/temp_core.sym
** sch_path: design/temp_core.sch
.subckt temp_core VDD VSS IBIAS EN PTAT CTAT
*.PININFO VDD:B VSS:B IBIAS:I EN:I PTAT:O CTAT:O
Rplaceholder_ptat PTAT VSS 1T m=1
Rplaceholder_ctat CTAT VSS 1T m=1
**** begin user architecture code

* PLACEHOLDER: temp_core has no internals yet -- they land with issue #9.
* The Rplaceholder_* devices in this cell are 1 Tohm terminations, not
* design content: they exist only so this stub is ERC-clean and DC-solvable.
* Nothing in this cell may be cited as simulation evidence.

**** end user architecture code
.ends


* expanding   symbol:  por_comparator.sym # of pins=6
** sym_path: design/por_comparator.sym
** sch_path: design/por_comparator.sch
.subckt por_comparator VDD VSS IBIAS VREF BIAS_OK POR_RAW
*.PININFO VDD:B VSS:B IBIAS:I VREF:I BIAS_OK:I POR_RAW:O
Rplaceholder_por_raw POR_RAW VSS 1T m=1
**** begin user architecture code

* PLACEHOLDER: por_comparator has no internals yet -- they land with issue #10.
* The Rplaceholder_* devices in this cell are 1 Tohm terminations, not
* design content: they exist only so this stub is ERC-clean and DC-solvable.
* Nothing in this cell may be cited as simulation evidence.

**** end user architecture code
.ends


* expanding   symbol:  por_output_chain.sym # of pins=5
** sym_path: design/por_output_chain.sym
** sch_path: design/por_output_chain.sch
.subckt por_output_chain VDD VSS IBIAS POR_RAW RESETn
*.PININFO VDD:B VSS:B IBIAS:I POR_RAW:I RESETn:O
Rplaceholder_resetn RESETn VSS 1T m=1
**** begin user architecture code

* PLACEHOLDER: por_output_chain has no internals yet -- they land with issue #12.
* The Rplaceholder_* devices in this cell are 1 Tohm terminations, not
* design content: they exist only so this stub is ERC-clean and DC-solvable.
* Nothing in this cell may be cited as simulation evidence.

**** end user architecture code
.ends
